US07872026B2
In a manner similar to that of Example 17a, by reaction of 600 mg (1.4 mmol) of ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate with 500 mg (1.7 mmol) of N-(5-bromopentyl)phthalimide and 230 mg (1.66 mmol) of potassium carbonate in 50 ml of acetone. 770 mg of ethyl 4′-[5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentyloxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a beige-colored solid (yield=85%).

reactant | ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 1.4 mmol, 600 mg | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C29H32O3
reactant | N-(5-bromopentyl)phthalimide | 1.7 mmol, 500 mg | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | potassium carbonate | 1.66 mmol, 230 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | ethyl 4′-[5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentyloxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 770 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C42H45NO5
